US05147893
trans-2,6-bis(1,1-Dimethylethyl)-4-[(2-hydroxycyclopentyl)thio]phenol
2.6-bis(1,1-Dimethylethyl-4- mercaptophenol (11.5 g, 0.048 mole) was added to a solution of sodium methoxide [prepared from sodium (2.2 g, 0.097 mole)] in methanol (75 ml). After several minutes, cyclopentene oxide (3.86 g, 0.046 mole) was added, and the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was poured into water (100 ml) containing saturated brine (50 ml) and 1N hydrochloric acid (80 ml). The mixture was extracted twice with 100 ml of diethyl ether. The combined diethyl ether extracts were dried over anhydrous magnesium sulfate, filtered and concentrated to an oil with a rotary evaporator. The product was purified by silica gel chromatography to give the product as a white solid which was recrystallized from hexane (DSC.m.p. 90° C.). The structure was supported by NMR and elemental analysis. Analysis calculated for: C19H30SO2 (m.w.=322.50): Theory: C, 70.76; H, 9.38; S, 9.94. Found: C, 71.14; H, 9.64; S, 10.02.

reactant | 1,1-Dimethylethyl-4- mercaptophenol | 0.048 mole, 11.5 g | CC(C)(C)C1=C(C=CC(=C1)S)O | C10H14OS
reactant | sodium methoxide | 0.097 mole, 2.2 g | C[O-].[Na+]
reactant | cyclopentene oxide | 0.046 mole, 3.86 g | C12C(CCC1)O2 | C5H8O
reactant | hydrochloric acid | 1N, 80 ml | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
solvent | brine | 50 ml | [Cl-].[Na+].O
solvent | water | 100 ml | O | H2O
product | trans-2,6-bis(1,1-Dimethylethyl)-4-[(2-hydroxycyclopentyl)thio]phenol | CC(C)(C)C1=C(C(=CC(=C1)S[C@H]1[C@@H](CCC1)O)C(C)(C)C)O | C19H30O2S
